US08487108B2
To a solution of (S)-tert-butyl 2,2-dimethyl-4-(((R)-1-methyl-6-oxopiperidin-3-yl)methyl)oxazolidine-3-carboxylate (230 mg, 0.70 mmol) in MeOH (10 mL) was added p-TSA (30 mg, 0.17 mmol) and stirred at rt overnight. TEA (1 mL) was added, followed by Boc2O (30 mg). The reaction mixture was stirred for another 30 min. The solvent was removed under vacuum to give crude product tert-butyl (S)-1-hydroxy-3-((R)-1-methyl-6-oxopiperidin-3-yl)propan-2-ylcarbamate, which was used for next step without further purification. MS ESI +ve m/z 287 (M+H).

reactant | (S)-tert-butyl 2,2-dimethyl-4-(((R)-1-methyl-6-oxopiperidin-3-yl)methyl)oxazolidine-3-carboxylate | 0.70 mmol, 230 mg | CC1(OC[C@@H](N1C(=O)OC(C)(C)C)C[C@@H]1CN(C(CC1)=O)C)C | C17H30N2O4
reactant | p-TSA | 0.17 mmol, 30 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | Boc2O | 30 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 10 mL | CO | CH4O
product | tert-butyl (S)-1-hydroxy-3-((R)-1-methyl-6-oxopiperidin-3-yl)propan-2-ylcarbamate | OC[C@H](C[C@@H]1CN(C(CC1)=O)C)NC(OC(C)(C)C)=O | C14H26N2O4
